US03954806
A process for preparing dl-strigol, a potent seed germination agent, which comprises preparing the 2-bromomethyl-substituted methyl ester of 2,6,6-trimethylcyclohex-1-en-3-one-1-carboxylic acid, alkylating and cyclizing the said compound with an excess of dimethyl sodiomalonate to obtain methyl 1,4-diketo-7,7-dimethyl-4,5,6,7-tetrahydroindane-2-carboxylate and its enol, subjecting the said keto and enol forms of the compound, in admixture, to alkylation with methyl bromoacetate followed by acidic hydrolysis and spontaneous decarboxylation to obtain methyl 1,4-diketo-7,7-dimethyl-4,5,6,7-tetrahydroindane-2-acetic acid, reducing the said acetic acid with a hydride reducing agent and recovering and separating the resulting 1,4-cis and trans-dihydroxy-7,7-dimethyl-4,5,6,7-tetrahydroindane-2-acetic acid lactones, formylating each of the cis and trans γ lactones, alkylating the respective resulting hydroxy methylene lactones with bromobutenolide and recovering dl-strigol, dl-4'-epi-strigol, dl-4-epi-strigol and dl-4,4'-diepi-strigol.

reactant | strigol | CC1=C[C@@H](OC1=O)O/C=C/2\[C@H]3CC4=C([C@H]3OC2=O)C(CC[C@@H]4O)(C)C | C19H22O6
reactant | 2,6,6-trimethylcyclohex-1-en-3-one-1-carboxylic acid | CC1=C(C(CCC1=O)(C)C)C(=O)O | C10H14O3
reactant | dimethyl sodiomalonate | [Na]C(C(=O)OC)C(=O)OC
product | methyl 1,4-diketo-7,7-dimethyl-4,5,6,7-tetrahydroindane-2-carboxylate | O=C1C(CC=2C(CCC(C12)(C)C)=O)C(=O)OC | C13H16O4
